US05596020
N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]-decan-2-amine (0.88 g; 0.0014 mole) is combined with ethanolic HCl (20 ml). After 2 hours, TLC indicates the reaction is complete. The reaction mixture is evaporated to dryness and purified on a flash column, using 10% MeOH/CH2Cl2 to obtain 1-[4-(benzoxazol-2-yl)benzyloxy]-tricyclo[3.3.1.13,7 ]-decan-2-amine hydrochloride (m.p. 291°-293° C.).

reactant | N-trityl-1-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]-decan-2-amine | 0.0014 mole, 0.88 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C2(CC3CC(CC1C3)C2)OCC2=CC=C(C=C2)C=2OC3=C(N2)C=CC=C3 | C43H40N2O2
reactant | HCl | 20 ml | Cl | ClH
product | 1-[4-(benzoxazol-2-yl)benzyloxy]-tricyclo[3.3.1.13,7 ]-decan-2-amine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COC13C(C4CC(CC(C1)C4)C3)N)C=C2 | InChI=1S/C24H26N2O2.ClH/c25-22-19-10-16-9-17(11-19)13-24(22,12-16)27-14-15-5-7-18(8-6-15)23-26-20-3-1-2-4-21(20)28-23;/h1-8,16-17,19,22H,9-14,25H2;1H
